US05432182
A solution of 3-butyryl-8-(benzoyloxymethyl)-4(1H)-quinolone (17.93 g) in phosphoryl chloride (150 ml) was heated at reflux for 1.5 hours, then the excess phosphoryl chloride evaporated. The residue was poured onto ice, extracted with dichloromethane, dried and evaporated to give 3-butyryl-4-chloro-8-(benzoyloxymethyl)quinoline. The crude product was used without further purification.

reactant | 3-butyryl-8-(benzoyloxymethyl)-4(1H)-quinolone | 17.93 g | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)COC(C1=CC=CC=C1)=O | C21H19NO4
reactant | phosphoryl chloride | 150 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-butyryl-4-chloro-8-(benzoyloxymethyl)quinoline | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)COC(C1=CC=CC=C1)=O | C21H18ClNO3
